US05298652
Sodium hydroxide hydrolysis of N-(2-methoxy-2-oxoethyl)-N-[3-(octadecyloxy)-5-(phenylmethoxy)benzoyl]glycine methyl ester gave N-(carboxymethyl)-N-[3-(octadecyloxy)-5-(phenylmethoxy)benzoyl]glycine, mp 93°-95°.

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | N-(2-methoxy-2-oxoethyl)-N-[3-(octadecyloxy)-5-(phenylmethoxy)benzoyl]glycine methyl ester | COC(CN(C(C1=CC(=CC(=C1)OCC1=CC=CC=C1)OCCCCCCCCCCCCCCCCCC)=O)CC(=O)OC)=O | C38H57NO7
product | N-(carboxymethyl)-N-[3-(octadecyloxy)-5-(phenylmethoxy)benzoyl]glycine | C(=O)(O)CN(CC(=O)O)C(C1=CC(=CC(=C1)OCC1=CC=CC=C1)OCCCCCCCCCCCCCCCCCC)=O | C36H53NO7
